US07776875B2
Preparation of E/Z-1-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxymethyl]-cyclopentanecarbonitrile
In a manner similar to the method described in Example 1b, 1-(4-chloro-2-formyl-phenoxymethyl)-cyclopentanecarbonitrile (17.4 g, 66 mmol) was reacted with 6-chlorooxindole (8.5 g, 51 mmol) and pyrrolidine (4.69 g, 66 mmol) in methanol to give the title compound as a yellow solid (19 g).

reactant | 1-(4-chloro-2-formyl-phenoxymethyl)-cyclopentanecarbonitrile | 66 mmol, 17.4 g | ClC1=CC(=C(OCC2(CCCC2)C#N)C=C1)C=O | C14H14ClNO2
reactant | 6-chlorooxindole | 51 mmol, 8.5 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 66 mmol, 4.69 g | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | Z-1-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxymethyl]-cyclopentanecarbonitrile | 19 g | ClC1=CC(=C(OCC2(CCCC2)C#N)C=C1)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C22H18Cl2N2O2
